US07268230B2
Diisopropylethylamine (72 μl, 0.41 mmol) and methanesulphonyl chloride (32 μl, 0.41 mmol) were added to a suspension of 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline (150 mg, 0.34 mmol), (prepared as described for the starting material in Example 11), in methylene chloride (4 ml). After a few minutes all the material had gone into solution. The mixture was stirred for 3 hours at ambient temperature, washed with saturated sodium hydrogen carbonate solution, dried (MgSO4) and concentrated under reduced pressure. The solid was suspended in methanol and filtered to give 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-{[1-(methylsulfonyl)piperidin-4-yl]methoxy}quinazoline (83 mg, 47%).

reactant | Diisopropylethylamine | 0.41 mmol, 72 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 0.41 mmol, 32 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | 0.34 mmol, 150 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCNCC1)C | C24H25FN4O3
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-{[1-(methylsulfonyl)piperidin-4-yl]methoxy}quinazoline | 83 mg, 47% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)S(=O)(=O)C)C | C25H27FN4O5S
